* NGSPICE file created from xor_gate.ext - technology: sky130A

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_1 abstract view
.subckt sky130_fd_sc_hd__fill_1 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_ef_sc_hd__decap_12 abstract view
.subckt sky130_ef_sc_hd__decap_12 VGND VPWR VPB VNB
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_6 abstract view
.subckt sky130_fd_sc_hd__decap_6 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_3 abstract view
.subckt sky130_fd_sc_hd__decap_3 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_2 abstract view
.subckt sky130_fd_sc_hd__fill_2 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_8 abstract view
.subckt sky130_fd_sc_hd__decap_8 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_4 abstract view
.subckt sky130_fd_sc_hd__decap_4 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_1 abstract view
.subckt sky130_fd_sc_hd__clkbuf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__tapvpwrvgnd_1 abstract view
.subckt sky130_fd_sc_hd__tapvpwrvgnd_1 VGND VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__xor2_1 abstract view
.subckt sky130_fd_sc_hd__xor2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_2 abstract view
.subckt sky130_fd_sc_hd__buf_2 A VGND VNB VPB VPWR X
.ends

.subckt xor_gate VGND VPWR in1 in2 out
XFILLER_13_111 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_12_65 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_57 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_18_97 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_18_53 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_13_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_105 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_3_57 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_12_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_18_65 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_69 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_15_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_13_113 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_6_109 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_3_69 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_57 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_26 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_3_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_18_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_6_36 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_10_117 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_3_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_69 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_15_57 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_6_48 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_6_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_1_81 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_11_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_119 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_3_27 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_5_111 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_1_93 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_15_69 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_7_81 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_6_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_13_105 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_12_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_3_39 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_27 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_1_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_29 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_15_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_7_93 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_0 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_13_81 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_12_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_10_109 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_9_39 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_5_113 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_4_83 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_18_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_1_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_15_27 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_1 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_18_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_13_93 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_2_117 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_19_113 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_19_81 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_10_83 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_15_39 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_13_119 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_7_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XPHY_2 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_12_29 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_4_41 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_4_85 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_16_117 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_16_83 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_5_105 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XPHY_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_18_29 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_13_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_4_53 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_4_97 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_10_85 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_10_41 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_4 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_109 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_4_65 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_1_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_18_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_10_97 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_10_53 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_16_85 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_16_41 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_5 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_19_85 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_10_65 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_16_109 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_7_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_16_97 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_16_53 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_5_119 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_8_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_1_111 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_19_97 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_10_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
Xinput1 in1 VGND VGND VPWR VPWR _0_/B sky130_fd_sc_hd__clkbuf_1
XFILLER_1_57 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_16_65 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_8_117 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_13_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xinput2 in2 VGND VGND VPWR VPWR _0_/A sky130_fd_sc_hd__clkbuf_1
XTAP_80 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_1_69 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_19_119 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_19_54 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_16_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_15_111 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_7_57 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_8 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_16_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_1_113 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_19_109 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_81 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_70 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_1_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_7_69 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_13_57 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_4_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_82 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_71 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_60 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_6_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_1_27 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_19_34 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_15_113 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_7_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_8_109 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_13_69 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_5_81 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_4_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XTAP_83 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_19_57 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_19_46 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XTAP_72 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_10_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_61 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_1_39 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_50 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_12_117 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_27 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_13_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_14_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_5_93 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_1_105 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_19_69 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_73 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_62 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_10_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XTAP_40 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_2_83 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XTAP_51 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_16_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_11_81 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_7_111 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_7_39 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_13_27 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_4_29 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_19_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_74 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_63 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_52 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_41 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_4_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_16_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_15_105 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_11_93 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_17_81 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_8_83 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_13_39 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_5_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_19_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XTAP_75 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_64 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_10_29 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_53 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_42 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_2_41 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_2_85 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_12_109 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_7_113 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_17_93 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_12_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_1_119 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XTAP_76 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_14_83 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XTAP_65 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_54 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_43 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_11_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_2_53 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_2_97 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_16_29 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_8_85 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_8_41 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_4_117 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_19_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XTAP_77 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_66 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_55 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_0_ _0_/A _0_/B VGND VGND VPWR VPWR _0_/X sky130_fd_sc_hd__xor2_1
XTAP_44 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_2_65 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_15_119 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_11_111 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_2_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_17_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_8_97 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_8_53 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_78 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_14_85 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_14_41 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_67 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_56 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_45 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_18_117 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_8_65 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_7_105 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_10_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_5_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XTAP_79 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_30 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_14_97 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_68 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_14_53 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_57 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_46 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_11_113 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_8_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_4_109 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XTAP_69 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_14_65 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_58 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_47 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_31 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_11_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_20 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_57 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_113 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_18_109 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XPHY_32 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_14_77 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XPHY_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_59 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XTAP_48 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_17_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_7_119 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_3_111 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_5_69 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XTAP_49 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_33 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_11_57 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_22 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_19_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_11_105 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_0_81 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_17_111 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_34 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_23 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_11_69 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_2_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_17_57 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_8_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_6 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_3_81 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_3_113 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_5_27 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_35 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_24 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_9_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_11_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_8_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_3_93 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_17_69 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_81 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_14_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_6_60 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_5_39 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_36 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_17_113 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XPHY_25 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_11_27 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_14 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_29 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_17_15 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_11_119 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_17_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_93 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_37 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_15_81 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_14_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_26 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_72 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_14_117 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_11_39 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_3_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_17_27 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_8_29 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_41 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_85 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_3_105 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_0_119 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_38 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_15_93 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_16 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_17_39 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_12_83 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_9_111 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_9_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_0_53 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_0_97 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_109 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_39 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_17_105 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_14_29 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XPHY_28 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_85 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
Xoutput3 _0_/X VGND VGND VPWR VPWR out sky130_fd_sc_hd__buf_2
XFILLER_18_83 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_15_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_15_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XPHY_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_14_109 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XPHY_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_6_97 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_12_85 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_12_41 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_113 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_6_116 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_3_119 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_3_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_12_97 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_12_53 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_5_3 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_18_85 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_18_41 VGND VPWR VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_17_119 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
.ends

